US04214097
A mixture of 374 mg of ethyl 3,3-dimethyl-4-pentenoate, 400 mg of 3-phenoxybenzyl alcohol and 16 mg of sodium ethoxide in 10 ml of toluene was heated under reflux for 24 hours, with a Dean-Stark apparatus containing a molecular sieve to absorb the evolved ethanol. The mixture was neutralized by adding an anhydrous ether solution of hydrogen chloride. The neutral solution was poured into water. The ether layer was separated, dried over magnesium sulfate, and distilled to give 520 mg (70% yield) of 3-phenoxybenzyl 3,3-dimethyl-4-pentenoate, b.p. 155-158°/0.3 mm.

reactant | ethyl 3,3-dimethyl-4-pentenoate | 374 mg | CC(CC(=O)OCC)(C=C)C | C9H16O2
reactant | 3-phenoxybenzyl alcohol | 400 mg | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
reactant | sodium ethoxide | 16 mg | [O-]CC.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-phenoxybenzyl 3,3-dimethyl-4-pentenoate | 520 mg, 70% yield | CC(CC(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)(C=C)C | C20H22O3
